US04416884
21.6 g of ethyl ethoxymethylenemalonate was added to 30.0 g of 5-(p-toluenesulfonyloxy)-1,2,3,4-tetrahydroquinoline and the mixture was heated at 110° C. on an oil bath for 30 minutes while stirring, during which time distillation of ethanol was observed. After heating, 240 g of polyphosphoric acid prepared from 120 g of phosphoric acid and 120 g of phosphorus pentoxide was added to the mixture and the mixture was allowed to react on an oil bath at 140° C. for 40 minutes. After completion of the reaction, the mixture was allowed to cool to room temperature and poured into 400 ml of water, followed by rendering the mixture neutral with a 40% aqueous sodium hydroxide to precipitate crystals. The crystals thus-obtained were mixed with 150 ml of a 10% aqueous sodium hydroxide solution and the mixture was heat refluxed for 40 minutes during which time the crystals were dissolved to form a uniform solution. The solution was filtered and the filtrate was allowed to cool and adjusted to a pH of 2 to precipitate crystals which were collected by filtration. Recrystallization of the crude crystals thus-obtained from dimethylformamide gave 27.4 g of an 8-(p-toluenesulfonyloxy)-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid as white needles having a melting point of not lower than 300° C.

reactant | ethyl ethoxymethylenemalonate | 21.6 g | C(C)OC=C(C(=O)OCC)C(=O)[O-]
reactant | 5-(p-toluenesulfonyloxy)-1,2,3,4-tetrahydroquinoline | 30.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C2CCCNC2=CC=C1)C | C16H17NO3S
reactant | phosphoric acid | 120 g | P(O)(O)(O)=O | H3O4P
reactant | phosphorus pentoxide | 120 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 8-(p-toluenesulfonyloxy)-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | 27.4 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O)C | C20H17NO6S
